US06107329
(S)-2-Amino-3-phenyl-1-thiomorpholin-4-yl-propan-1-one hydrochloride
(S)-(1-Benzyl-2-oxo-2-thiomorpholin-4-yl-ethyl)-carbamic acid tert-butyl ester (17.8 mmol) was dissolved in 4M HCl-dioxane (67 mL) at 0° C., the solution stirred at 25° C. for 1 hour, the reaction concentrated and the residue triturated with ether. Yield, 5.0 g, 98%; PBMS 251 (MH+, 100%).

reactant | (S)-(1-Benzyl-2-oxo-2-thiomorpholin-4-yl-ethyl)-carbamic acid tert-butyl ester | 17.8 mmol | C(C)(C)(C)OC(N[C@H](C(N1CCSCC1)=O)CC1=CC=CC=C1)=O | C18H26N2O3S
reactant | HCl dioxane | 4M, 67 mL | Cl.O1CCOCC1
product | (S)-2-Amino-3-phenyl-1-thiomorpholin-4-yl-propan-1-one hydrochloride | Cl.N[C@H](C(=O)N1CCSCC1)CC1=CC=CC=C1 | InChI=1S/C13H18N2OS.ClH/c14-12(10-11-4-2-1-3-5-11)13(16)15-6-8-17-9-7-15;/h1-5,12H,6-10,14H2;1H/t12-;/m0./s1
